### PR TITLE
[Merged by Bors] - feat(Order/Group/Cyclic): provide basic properties of cyclic linearly ordered commutative groups

### PR DESCRIPTION
**Pull request by faenuccio**
Co-authored with @mariainesdff

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/Cyclic.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+    · rw [← ha1, Subgroup.zpowers_one_eq_bot] at ha
+      exact absurd ha.symm <| (H.nontrivial_iff_ne_bot).mp (by infer_instance)
+    · use a⁻¹, Left.inv_lt_one_iff.mpr ha1
+      rw [Subgroup.zpowers_inv, ha]
+
+/-- Given a subgroup of a cyclic linearly ordered commutative group, this is a generator of
+the subgroup that is `< 1`. -/
+@[to_additive neg_gen "Given an additive subgroup of an additive cyclic linearly ordered
+commutative group, this is a negative generator of the subgroup."]
+protected noncomputable def gen_lt_one : G := H.exists_generator_lt_one.choose
```
Comment (erdOne) [inline Mathlib/Algebra/Order/Group/Cyclic.lean:47]:
```suggestion
/-- Given a subgroup of a cyclic linearly ordered commutative group, this is a generator of
the subgroup that is `< 1`. -/
@[to_additive negGen "Given an additive subgroup of an additive cyclic linearly ordered
commutative group, this is a negative generator of the subgroup."]
protected noncomputable def genLTOne : G := H.exists_generator_lt_one.choose
```
Same below.

File: Mathlib/Algebra/Order/Group/Cyclic.lean [hunk 2]
```diff
@@ -0,0 +1,71 @@
...
+    · rw [← ha1, Subgroup.zpowers_one_eq_bot] at ha
+      exact absurd ha.symm <| (H.nontrivial_iff_ne_bot).mp (by infer_instance)
+    · use a⁻¹, Left.inv_lt_one_iff.mpr ha1
+      rw [Subgroup.zpowers_inv, ha]
+
+/-- Given a subgroup of a cyclic linearly ordered commutative group, this is a generator of
+the subgroup that is `< 1`. -/
+@[to_additive negGen "Given an additive subgroup of an additive cyclic linearly ordered
+commutative group, this is a negative generator of the subgroup."]
+protected noncomputable def gen_lt_one : G := H.exists_generator_lt_one.choose
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Group/Cyclic.lean:47]: This one needs camel case too

File: Mathlib/Algebra/Order/Group/Cyclic.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+
+@[to_additive negGen_neg]
+lemma gen_lt_one_lt_one {G : Type*} [LinearOrderedCommGroup G] [IsCyclic G]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Group/Cyclic.lean:50]: Also in the lemmas

File: Mathlib/Algebra/Order/Group/Cyclic.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/Group/Cyclic.lean:47]: OK, I camel-ed it; the only doubt is about `genLTOne` vs `genLTone`: in principle it should be the first, as `One` is the word after `LT` (that needs to be entirely upper-case as a group), but I am not sure.

Comment (faenuccio) [reply Mathlib/Algebra/Order/Group/Cyclic.lean]: Good, that's what I did.

File: Mathlib/Algebra/Order/Group/Cyclic.lean [hunk 4]
```diff
@@ -0,0 +1,71 @@
...
+
+variable (G) [Nontrivial G]
+
+/-- Given a cyclic linearly ordered commutative group, this is a generator that is `< 1`. -/
+@[to_additive negGen "Given an additive cyclic linearly ordered commutative group, this is a
+negative generator of it."]
+noncomputable def genLTOne : G := (⊤ : Subgroup G).genLTOne
+
+@[to_additive (attr := simp) negGen_eq_of_top]
+lemma gen_lt_one_eq_of_top : genLTOne G = (⊤ : Subgroup G).genLTOne := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Group/Cyclic.lean:69]: Here too

File: Mathlib/Algebra/Order/Group/Cyclic.lean [hunk 5]
```diff
@@ -0,0 +1,71 @@
...
+-/
+import Mathlib.GroupTheory.SpecificGroups.Cyclic
+
+/-!
+# Cyclic linearly ordered groups
+
+This file contains basic results about cyclic linearly ordered groups and their subgroups.
+
+The definitions `LinearOrderedCommGroup.Subgroup.gen_lt_one` (*resp.*
+`LinearOrderedCommGroup.gen_lt_one`) yields a generator of a non-trivial subgroup of a linearly
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Group/Cyclic.lean:14]: And here

File: Mathlib/Algebra/Order/Group/Cyclic.lean (hunk 4 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/Group/Cyclic.lean:69]: good catches!

File: Mathlib/Algebra/Order/Group/Cyclic.lean (hunk 5 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/Group/Cyclic.lean]: fixed

Comment (faenuccio) [reply Mathlib/Algebra/Order/Group/Cyclic.lean]: @Ruben-VandeVelde @erdOne Do you have more comments on this?

Comment (kbuzzard) [reply Mathlib/Algebra/Order/Group/Cyclic.lean]: @faenuccio can you resolve the conversations which you've dealt with, using the "Resolve conversation" button? Right now it looks like there are several things which you're still to deal with.

File: Mathlib/Algebra/Order/Group/Cyclic.lean [hunk 6]
```diff
@@ -0,0 +1,71 @@
...
+lemma exists_generator_lt_one : ∃ (a : G), a < 1 ∧ Subgroup.zpowers a = H := by
+  obtain ⟨a, ha⟩ := H.isCyclic_iff_exists_zpowers_eq_top.mp H.isCyclic
+  by_cases ha1 : a < 1
+  · exact ⟨a, ha1, ha⟩
+  · simp only [not_lt, le_iff_eq_or_lt] at ha1
+    rcases ha1 with (ha1 | ha1)
+    · rw [← ha1, Subgroup.zpowers_one_eq_bot] at ha
+      exact absurd ha.symm <| (H.nontrivial_iff_ne_bot).mp (by infer_instance)
+    · use a⁻¹, Left.inv_lt_one_iff.mpr ha1
+      rw [Subgroup.zpowers_inv, ha]
```
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Algebra/Order/Group/Cyclic.lean:41]: Oh, very nice! Thanks.

**Comment by faenuccio** [comment]
Two general questions:
1. Is there some result you have in mind? I am not sure to see the interest of these theorems.
1. Your assumption `hv` could probably benefit from the recent PR #23726: have you had a look at it?
1.

**Comment by faenuccio** [comment]
@kbuzzard Do you have more comments on this PR?

**Comment by kbuzzard** [comment]
Looks fine!

bors merge
